US06939874B2
A 3-neck round bottom flask was charged with NaH (60% dispersion in mineral oil, 0.41 g, 10.1 mmol, 1.2 eq.) under N2. The mineral oil was removed by stirring in n-heptane (3×10 mL) and decanting the supernatant liquid. The NaH was suspended in anhydrous THF (20 mL) and cooled to 0° C. A solution of 2-(2,6-dimethylphenylamino)-1H-benzimidazole (2.0 g, 8.4 mmol) in anhydrous THF (15 mL) was added slowly and the reaction was stirred at 0° C. for 0.5 h. A solution of 2,4-dichloropyrimidine (1.89 g, 12.7 mmol, 1.5 eq.) in anhydrous THF (15 mL) was added and the reaction was stirred at 0° C. for 0.5 h under N2, then warmed to RT and stirred for 18 h. The reaction was diluted with CH2Cl2 and sat. aq. NaHCO3. The organic layer was separated, dried (Na2SO4) and concentrated in vacuo. The residue was taken up into IPA and triturated with 1M HCl in Et2O (16 mmol). The resulting precipitate was separated by filtration and rinsed with n-heptane and n-heptane/EtOAc (1:1) to yield off-white crystals of a mixture of regioisomers as the HCl salts. The salts were suspended in hot CH3CN and filtered. The solids, a mixture of regioisomers, was taken up into CH2Cl2 and free-based with sat. aq. NaHCO3. The organic layer was dried (Na2SO4) and concentrated in vacuo to afford a fluffy white solid. The solids were dissolved in CH2Cl2, adsorbed onto silica and purified by column chromatography (silica; n-heptane:EtOAc; 4:1). The product fractions were combined and the solvent removed in vacuo to afford 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole as a white solid. MS m/z=350 (M+H). Calc'd for C19H40N8O3=349.

reactant | NaH | 10.1 mmol, 0.41 g, 1.2 eq. | [H-].[Na+]
reactant | 2-(2,6-dimethylphenylamino)-1H-benzimidazole | 8.4 mmol, 2.0 g | CC1=C(C(=CC=C1)C)NC1=NC2=C(N1)C=CC=C2 | C15H15N3
reactant | 2,4-dichloropyrimidine | 12.7 mmol, 1.89 g, 1.5 eq. | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | HCl | 1M | Cl | ClH
reactant | Et2O | 16 mmol | CCOCC | C4H10O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | CC#N | C2H3N
product | 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole | ClC1=NC=CC(=N1)N(C1=NC2=C(N1)C=CC=C2)C2=C(C=CC=C2C)C | C19H16ClN5
